US07342115B2
DIBAL-H (1.5 M in Toluene, 0.3 mL) is added dropwise to a solution of 3-{1-[6-(2,6-diethyl-phenyl)-4-ethoxy-pyridin-3-yl]-butoxy}-benzoic acid methyl ester (80 mg, 0.17 mmol) in THF (3 mL) at room temperature. The reaction mixture is stirred for 2 hours, then diluted with ether (5 mL) and treated with Na2SO4.10H2O. The resulting mixture is stirred for one hour and filtered through Celite. Concentration of the filtrate at reduced pressure gives (3-{1-[6-(2,6-diethyl-phenyl)-4-ethoxy-pyridin-3-yl]-butoxy}-phenyl)-methanol. 1H NMR (CDCl3) 8.53 (s, 1H), 7.10-7.30 (m, 4H), 6.74-6.90 (m, 4H), 5.60 (m, 1H), 4.51 (s, 2H), 4.13 (q, 2H), 2.47 (s, 1H), 2.24-2.37 (m, 4H), 1.80-2.10 (m, 2H), 1.40-1.60 (m, 5H), 0.90-1.05 (m, 9H).

reactant | DIBAL-H | 1.5 M, 0.3 mL | CC(C)C[AlH]CC(C)C
reactant | 3-{1-[6-(2,6-diethyl-phenyl)-4-ethoxy-pyridin-3-yl]-butoxy}-benzoic acid methyl ester | 0.17 mmol, 80 mg | COC(C1=CC(=CC=C1)OC(CCC)C=1C=NC(=CC1OCC)C1=C(C=CC=C1CC)CC)=O | C29H35NO4
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | ether | 5 mL | CCOCC | C4H10O
product | (3-{1-[6-(2,6-diethyl-phenyl)-4-ethoxy-pyridin-3-yl]-butoxy}-phenyl)-methanol | C(C)C1=C(C(=CC=C1)CC)C1=CC(=C(C=N1)C(CCC)OC=1C=C(C=CC1)CO)OCC | C28H35NO3
